US04540583
Preparation of 1,4-bis(2-dimethylaminoethylamino)anthraquinone
Alternatively, the above product may be prepared by stirring and heating under reflux for 5 hours a mixture of 2.4 g. of quinizarin, 2.82 g. of N,N-dimethylethylenediamine and 9 ml. of N,N,N',N'-tetramethylethylenediamine. The product is recovered as described above.

reactant | quinizarin | C=1C=CC2=C(C1)C(=O)C3=C(C=CC(=C3C2=O)O)O | C14H8O4
reactant | N,N-dimethylethylenediamine | CN(CCN)C | C4H12N2
reactant | N,N,N',N'-tetramethylethylenediamine | CN(CCN(C)C)C | C6H16N2
product | 1,4-bis(2-dimethylaminoethylamino)anthraquinone | CN(CCNC1=CC=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)NCCN(C)C)C | C22H28N4O2
